* source TP3_EP
X_X1         N01396 N00748 N00686 MCR5167
X_X2         N00686 N00691 N00849 MCR5167
X_X3         N00760 N01034 N00829 MCR5167
X_X4         N01396 N00720 N00760 MCR5167
X_X5         N01396 N00732 N00772 MCR5167
X_X6         N00772 N04297 N00829 MCR5167
I_I4         N00686 N00748 DC 0Adc AC 0Aac
+PULSE 0 1 {tn4+td} 1u 1u 500u {1/frec}
I_I1         N00829 N00691 DC 0Adc AC 0Aac
+PULSE 0 1 {tn1+td} 1u 1u 500u {1/frec}
I_I2         N00829 N01034 DC 0Adc AC 0Aac
+PULSE 0 1 {tn2+td} 1u 1u 500u {1/frec}
I_I5         N00760 N00720 DC 0Adc AC 0Aac
+PULSE 0 1 {tn5+td} 1u 1u 500u {1/frec}
I_I6         N00772 N00732 DC 0Adc AC 0Aac
+PULSE 0 1 {tn6+td} 1u 1u 500u {1/frec}
R_R1         N01396 N00829  100 TC=0,0 
V_V1         N00686 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 0
V_V2         N00760 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 120
V_V3         N00772 0 DC 0 AC 0
+SIN 0 {vmax} {frec} 0 0 240
I_I3         N00829 N04297 DC 0Adc AC 0Aac
+PULSE 0 1 {tn3+td} 1u 1u 500u {1/frec}
.PARAM  tn6=18.33m tn1=1.66m tn3=8.33m tn2=15m alpha=135 frec=50hz td=
+ {alpha*20m/360} vmax=311v tn5=5m tn4=11.66m
